* S:\My Documents\DavidHouston\FPSi Senior Project\Draft1.asc
VMDAC1 N005 0 PWL file=mdac_data_new.txt
XU1 0 N001 Vdd1 Vss1 N002 LT1208
R1 N001 N005 3k tol=1 pwr=0.1
R2 N002 N001 3k tol=1 pwr=0.1
R3 N004 0 390
C1 N004 0 12.21n
V1 Vdd1 0 33
V2 0 Vss1 33
XU2 0 N003 Vdd1 Vss1 N004 LT1208
R4 N003 N002 3k tol=1 pwr=0.1
R5 N004 N003 5k tol=1 pwr=0.1
* Amplifier
.tran 0 0.1 0
.lib LTC.lib
.backanno
.end
